Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right MCA Aneurysm
 
Major Surgical or Invasive Procedure:
___ - Right Craniotomy for Clipping of Middle Cerebral 
Artery Aneurysm. 

 
History of Present Illness:
___ is a ___ female who presents with an 
incidentally found middle cerebral artery aneurysm on the right 
side.

To briefly summarize events leading up to her presentation, the 
patient initially had this diagnosed in workup for seizures.  
She appears to be having seizures since ___, is treated with 
Keppra.  Her last seizure was approximately six weeks ago and 
was associated with a syncopal episode.  She is otherwise well, 
although she feels that cognitively she has declined somewhat
since the seizures started in ___.  She also has had previous 
myocardial infarction, although apparently the catheter 
angiogram did not reveal any abnormalities and she had no 
interventions done.  She also has a mitral valve prolapse.  She 
denies any specific new speech disturbance or any severe 
headaches or new neurology.

Her MRI shows a 7 mm right MCA aneurysm.  We had extensive 
discussion regarding this aneurysm.  We feel that given her 
young age and the size that this will almost certainly need 
treatment.  However, we can get better imaging and so we have 
booked her in for a CT angiogram today.  We will discuss her at 
case conference and then discuss the treatment options she has. 
The risks and benefits of craniotomy and surgical intervention 
were discussed and the patient consented to the procedure. 

 
Past Medical History:
Valvular Heart Disease
Seizures
Gastritis
Ulcers
 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
On examination, she is GCS 15.  She is alert, oriented, and
afebrile.  She had gross intact visual acuity and fields
bilaterally.  The remainder of her cranial nerve examination was
unremarkable.  Upper and lower limb examination was 
unremarkable.

PHYSICAL EXAMINATION ON DISCHARGE:
General: ___/WN, NAD
Mental Status: Alert & Oriented to person, place and time. 
Speech fluent, comprehension intact.
CN II-XII: Anisocoria L 3, R 2, briskly reactive.  Left 
nasolabial fold flattening with symmetric activation. Decreased 
sensation over V1-V3 on right face. Tongue midline. 
Motor: No prontator drift. Full strength in all muscle groups. 
SILT and proprioception. FNF intact bilaterally. Reflexes 3s 
with crossed adductors in the lowers. No clonus. 

Skin: R facial swelling, incision clean, dry and intact
 
Pertinent Results:
___ 06:00AM BLOOD WBC-7.7 RBC-3.35* Hgb-11.0* Hct-33.0* 
MCV-99* MCH-32.8* MCHC-33.3 RDW-12.4 RDWSD-44.5 Plt ___
___ 04:39AM BLOOD WBC-13.5*# RBC-3.39* Hgb-10.9* Hct-33.9* 
MCV-100* MCH-32.2* MCHC-32.2 RDW-12.3 RDWSD-45.2 Plt ___
___ 06:00AM BLOOD ___ PTT-28.8 ___
___ 04:39AM BLOOD ___ PTT-29.5 ___
___ 05:45AM BLOOD Glucose-91 UreaN-6 Creat-0.9 Na-143 K-3.8 
Cl-107 HCO3-26 AnGap-14
___ 06:00AM BLOOD Glucose-93 UreaN-7 Creat-0.9 Na-141 K-3.9 
Cl-107 HCO3-25 AnGap-13
___ 04:39AM BLOOD Glucose-131* UreaN-13 Creat-1.0 Na-136 
K-3.6 Cl-103 HCO3-22 AnGap-15
___ 05:45AM BLOOD Calcium-8.5 Phos-2.1* Mg-2.0
___ 06:00AM BLOOD Calcium-8.5 Phos-1.7* Mg-2.3
___ 04:39AM BLOOD Calcium-8.1* Phos-2.5* Mg-1.7
 
Brief Hospital Course:
The patient was taken to the operating room on the day of 
admission, ___ and underwent a right craniotomy for 
clipping of the MCA aneurysm. She tolerated the procedure well 
and was extubated in the operating room. She was then 
transferred to the ICU post-operatively for close monitoring. 

On ___, the patient remained neurologically stable on 
examination. The arterial line was discontinued and the foley 
catheter was removed. It was determined she would be transferred 
to the floor. 

On ___, patient remains neurologically and hemodynamically 
stable. Per nursing, patient has intermittent confusion however 
during rounds patient is intact. Patient complains of headache 
and nausea earlier in the morning, nausea improved however 
incisional pain persisting. Incision is clean/dry/intact with 
right facial swelling. Physical therapy consulted. 

On ___ she continued to do well with less confusion. Pain was 
well controlled. She was ambulating and tolerating PO diet. Plan 
to watch 1 more day and discharge home with home ___ tomorrow. 

On ___, the patient remained neurologically and hemodynamically 
stable.  She was ambulating independently, voiding and 
tolerating a regular diet.  Pain was well-controlled.  She was 
discharged home in stable condition.
 
Medications on Admission:
ASA
Lipitor
Keppra
Metoprolol Succinate
Nitroglycerin
Nortriptolyne
Paxil
Timolol
Zantac
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Atorvastatin 40 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. LevETIRAcetam 750 mg PO BID 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Nortriptyline 100 mg PO QHS 
7. PARoxetine 80 mg PO DAILY 
8. Senna 17.2 mg PO QHS 
9. TraMADol 50 mg PO Q4H:PRN Pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Every 4 hours as needed 
Disp #*45 Tablet Refills:*0
10. Ranitidine 150 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right MCA Anuerysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ Aneurysm ___

Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:
- Any neurological issues, such as change in vision, speech or 
movement
- Swelling, drainage, or redness of your incision
- Any problems with medications, such as nausea vomiting or 
lethargy
- Fever greater than 101.5 degrees Fahrenheit
- Headaches not relieved with prescribed medications
 
Activity:
- Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.
- Do not operate any motorized vehicle for at least 10 days 
after your surgery – your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

Incision Care:
- Keep your wound clean and dry.
- Do not use shampoo until your sutures are removed. 
- When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.
- Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.
- You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: Physical
- Jaw pain on the same side as your surgery; this goes away 
after about a month
- You may experience constipation.  Constipation can be 
prevented by:
o Drinking plenty of fluids
o Increasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements
o Exercising
o Using over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea
- Fatigue which will slowly resolve over time
- Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve
- Muffled hearing in the ear near the incision area
- Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional
- You may experience depression.  Symptoms of depression can 
include
o Feeling “down” or sad
o Irritability, frustration, and confusion
o Distractibility
o Lower Self-Esteem/Relationship Challenges
o Insomnia
o Loneliness
- If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist
- You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation
o More information can be found at ___

 
Followup Instructions:
___